US07763731B2
4-Methyl-2-nitro-1-phenoxy-benzene
A solution of sodium phenoxide trihydrate (5.0 g, 30 mmol) and 4-chloro-3-nitrotoluene (2.65 mL, 30 mmol) was heated in 60 mL of DMF at 100° C. for 5 days with stirring following the procedure from Example 1c. The product was purified by silica gel column chromatography eluting with CH2Cl2 giving the title compound as an orange solid (1.36 g, 30%).

reactant | sodium phenoxide trihydrate | 30 mmol, 5.0 g | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | 4-chloro-3-nitrotoluene | 30 mmol, 2.65 mL | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-2-nitro-1-phenoxy-benzene | CC1=CC(=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C13H11NO3
